US09303033B2
Synthesis 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione
Tert-butyl 4-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)piperidine-1-carboxylate (640 mg, 1.2 mmol) was dissolved in 10 mL of TFA/DCM (1:1) and stirred at room temperature for 1 hour then quenched by addition to ice cold 6N NaOH. The mixture was diluted with water then the aqueous layer was decanted. The organic layer was diluted with hexanes and filtered. The product, 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione, was collected as a solid in quantitative yield. LCMS (M+1=453)

reactant | Tert-butyl 4-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)piperidine-1-carboxylate | 1.2 mmol, 640 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)N=CC2C=C2NC(NC2=O)=O | C26H29ClN8O4
solvent | TFA DCM | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | quantitative yield | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCNCC1)N=CC2C=C2C(NC(N2)=O)=O | C21H21ClN8O2
